US05344843
As in example 19, a stirred solution of 4-(2-cyclooctyl-2-oxoethoxy)-alpha-oxobenzeneacetic acid ethyl ester (0.318 g) in warm methanol (5 mL) was treated with 1N sodium hydroxide (2 mL). Within 5 minutes water (20 mL) was added, then after the methanol was removed in vacuo, the mixture was acidified with 1N hydrochloric acid (2.5 mL) and extracted with dichloromethane (1×40 mL, 1×10 mL). The dried (MgSO4) extracts were evaporated and the resulting solid (0.255 g) was crystallized from diethyl ether-hexane to give 0.178 g of 4-[2-(cyclooctyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid as a colorless solid, mp 109°-110° C.

reactant | 4-(2-cyclooctyl-2-oxoethoxy)-alpha-oxobenzeneacetic acid ethyl ester | 0.318 g | C(C)OC(C(C1=CC=C(C=C1)OCC(=O)C1CCCCCCC1)=O)=O | C20H26O5
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 4-[2-(cyclooctyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid | 0.178 g | C1(CCCCCCC1)C(COC1=CC=C(C=C1)C(C(=O)O)=O)=O | C18H22O5
